US04301279
3-hydroxy-7β-phenoxyacetylamino-cepham-4α-carboxylic acid diphenylmethyl ester
In the same manner as that described under (b), 516 mg of 3-hydroxy-7β-phenoxyacetylamino-3-cephem-4-carboxylic acid diphenylmethyl ester (crude product) in 5.1 ml of glacial acetic acid are reduced with 94 mg of sodium borohydride and worked up. The title compound having the properties mentioned under (a) is obtained.

reactant | 3-hydroxy-7β-phenoxyacetylamino-3-cephem-4-carboxylic acid diphenylmethyl ester | 516 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)O | C28H24N2O6S
reactant | sodium borohydride | 94 mg | [BH4-].[Na+]
solvent | acetic acid | 5.1 ml | C(C)(=O)O | C2H4O2
product | 3-hydroxy-7β-phenoxyacetylamino-cepham-4α-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)[C@H]1C(CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)O | C28H26N2O6S
